US06369002B1
Preparation of 2-(5-Chloro-3-fluoro-pyridine-2-yl)-7-fluoro-tetrahydroimidazo-(1.5-a)-pyridine-1,3-dione
2.6 g of 2-(5-Chloro-3-fluoro-pyridine-2-yl)-7-hydroxi-tetrahydroimidazo-(1.5-a)-pyridine-1,3-dione (isomer B) in 80 ml dichlorromethane is treated at −55° C.-−65° C. with 1.9 ml of diethylaminosulfur trifluoride (DAST) and stirred at the same temperature for 1 hr. The vessel is then allowed to stirr at room temperature over night. The resulting brownish solution is treated with ice and water and extracted with ethyl acetate. The extracts are washed with water, dried, filtered through a small siligcagel column and evaporated to give the desired product with m.p. 154-157° C.

reactant | 2-(5-Chloro-3-fluoro-pyridine-2-yl)-7-hydroxi-tetrahydroimidazo-(1.5-a)-pyridine-1,3-dione | 2.6 g | ClC=1C=C(C(=NC1)N1C(N2C(CC(CC2)O)C1=O)=O)F | C12H11ClFN3O3
reactant | diethylaminosulfur trifluoride | 1.9 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | water | O | H2O
product | 2-(5-Chloro-3-fluoro-pyridine-2-yl)-7-fluoro-tetrahydroimidazo-(1.5-a)-pyridine-1,3-dione | ClC=1C=C(C(=NC1)N1C(N2C(CC(CC2)F)C1=O)=O)F | C12H10ClF2N3O2
